US07323475B2
[(1-Chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid
A mixture of [(1-chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester (50 mg, 0.14 mmol, Example D-74 b), and aqueous 6N HCl was stirred at ambient temperature for 11 days before the solution was neutralized by the addition of concentrated aqueous NaHCO3. The mixture was extracted with EtOAc (50 ml). The organic phase was dried over MgSO4 and concentrated in vacuo to give the title compound as a white solid (35 mg); MS-(+)-ion: M+1=341.0.

reactant | [(1-chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester | 0.14 mmol, 50 mg | COC(CNC(=O)C=1N=C(C2=CC=CC=C2C1C1=CC=CC=C1)Cl)=O | C19H15ClN2O3
reactant | HCl | 6N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | [(1-Chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid | 35 mg | ClC1=NC(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NCC(=O)O | C18H13ClN2O3
